2104-07-14 10:38:00 Physician Attending Progress Note
Chief Complaint: Hyperkalemia; Acute renal failure; Digoxin Toxicity
   HPI:
   24 Hour Events:
   No new clinical events overnight.
   Bradycardia improved overnight.
   Received digoxin binding [**Doctor Last Name **].
   Offers no new complaints.
   COntinues to experience foot pain (chronic)
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2104-7-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2104-7-14**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Resting tremor
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-7-14**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.7
   HR: 51 (46 - 59) bpm
   BP: 93/46(58) {77/28(41) - 111/64(75)} mmHg
   RR: 17 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
             Total In:
                                                                    812 mL
                                                                  2,543 mL
   PO:
             540 mL
   TF:
   IVF:
                                                                    812 mL
                                                                  2,003 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    855 mL
   Urine:
                                                                    640 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    172 mL
                                                                  1,688 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Somewhat
   cachectic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Ventral hernia, prominant (esp with
   cough), easily reducible
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   228 K/uL
   64 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.6 mEq/L
   78 mg/dL
   105 mEq/L
   139 mEq/L
   32.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2104-7-13**]  09:42 PM
                             [**2104-7-14**]  02:44 AM
   WBC
   4.5
   Hct
   32.3
   Plt
   228
   Cr
   3.1
   3.0
   TropT
   0.08
   0.09
   Glucose
   210
   64
   Other labs: CK / CKMB / Troponin-T:144/10/0.09, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   79 yom acute renal failure, hyperkalemia and digoxin toxicity.
   HYPERKALEMIA -- resolved following interventions.  Maintain within
   normal range.  F/U EKG.
   DIGOXIN TOXICITY -- responding to therapy.  Hold further digoxin
   binding [**Doctor Last Name **].  Follow digoxin level.
   RENAL FAILURE -- acute (?baseline normal vs. CRI).  Contact Dr. [**Last Name (STitle) 4157**]
   (near [**Location (un) 4158**], NY) to obtain additional medical information.  Plan
   monitor urine output, BUN, creatitine.  ?medication related renal
   failure (+ eosinophils, although rare).
   FLUIDS -- desire net positive.  Provide iv fluid bolus.
   UTI -- chronic suprapubic catheter.  Continue Ceftriaxone.
   BRADYCARDIA -- attributed to digoxin and hyperkalemia.  Monitor.
   ANEMIA -- stable.  No clinical evidence for acute blood loss.  Monitor
   serial Hct.
   EtOH -- monitor for withdrawal.
   NEUROPATHIC PAIN, FEET -- symptomatic relief.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-7-13**] 02:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2104-07-15 13:23:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2104-7-14**] 10:57 AM
 ULTRASOUND - At [**2104-7-14**] 02:52 PM
   Offers no new complaints.  Denies dyspnea, chest pain, palpitations,
   abdominal pain.
   Up in chair.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2104-7-15**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2104-7-14**] 09:54 PM
   Heparin Sodium (Prophylaxis) - [**2104-7-15**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, suprapubic
   catheter
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-7-15**] 01:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 54 (49 - 70) bpm
   BP: 113/59(72) {101/41(56) - 143/64(81)} mmHg
   RR: 10 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
             Total In:
                                                                  3,652 mL
                                                                    501 mL
   PO:
                                                                    840 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,812 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                  1,105 mL
   Urine:
                                                                  1,815 mL
                                                                  1,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,837 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   206 K/uL
   97 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.4 mEq/L
   66 mg/dL
   109 mEq/L
   141 mEq/L
   32.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2104-7-13**]  09:42 PM
                             [**2104-7-14**]  02:44 AM
                             [**2104-7-14**]  05:02 PM
                             [**2104-7-15**]  04:01 AM
   WBC
   4.5
   4.7
   Hct
   32.3
   32.6
   Plt
   228
   206
   Cr
   3.1
   3.0
   2.8
   2.7
   TropT
   0.08
   0.09
   Glucose
   [**Telephone/Fax (2) 4215**]
   Other labs: CK / CKMB / Troponin-T:144/10/0.09, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Acute renal failure, digoxin toxicity, hyperkalemia.
   DIGOXIN TOXICITY --  likely consequence of acute renal failure.
   Digoxin level slowly decreasing.  Monitor level.  No further Digoxin
   binding [**Doctor Last Name **].
   HYPERKALEMIA
 resolved.  Monitor K, maintain >4 <5.5
   RIGHT HYDRONEPHROSIS
 unclear as to duration (suspect subacute or
   chronic).  Doubt etiology of acute renal failure, but may be
   contributing.  Unclear etiology for hydronephrosis
 need to obtain
   outside medical records and determine direction of further evaluation
   (ex. Further imaging).
   RENAL FAILURE
 acute, non-oliguric; slowly improving.  Unclear
   baseline, but reportedly with CRI.  Need to confirm baseline through
   medical records.  Monitor urine output, BUN, creatitine.
   FLUIDS
 hypovolemic; continue to provide iv fluid, monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-7-13**] 02:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes